US09303023B2
To a solution 2-(5-methoxy-1H-indol-3-yl)-2-oxoacetyl chloride (14.78 g, 62.20 mmol) in ethanol (144 mL), Et3N (10.40 mL, 74.63 mmol) was added at 0° C. and the resulting yellow suspension was stirred at rt for 1 h. The percipitate was filtered off, washed with cold ethanol and diethylether to yield ethyl 2-(5-methoxy-1H-indol-3-yl)-2-oxoacetate as an orange oil. LC-MS conditions B: tR=0.63 min, [M+H]+=248.13.

reactant | 2-(5-methoxy-1H-indol-3-yl)-2-oxoacetyl chloride | 62.20 mmol, 14.78 g | COC=1C=C2C(=CNC2=CC1)C(C(=O)Cl)=O | C11H8ClNO3
reactant | Et3N | 74.63 mmol, 10.40 mL | CCN(CC)CC | C6H15N
reactant | ethanol | 144 mL | C(C)O | C2H6O
product | ethyl 2-(5-methoxy-1H-indol-3-yl)-2-oxoacetate | COC=1C=C2C(=CNC2=CC1)C(C(=O)OCC)=O | C13H13NO4
